US07521447B2
Step E: 1-(2-{1-[2-(tert-Butyldimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzyl)-3-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-urea:
A mixture of 2-{1-[2-(tert-butyldimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzylamine (0.072 g, 0.162 mmol), (5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloroethyl ester (0.080 g, 0.24 mmol) and DIEA (0.06 mL, 0.324 mmol) in DMA (3 mL) was heated to 80° C. for 16 hours. The mixture was diluted with ether (60 mL) and washed with water (3×5 mL), brine, dried over MgSO4, and concentrated under reduced pressure. The residue was chromatographed on silica eluting with ethyl acetate/hexanes (3:1) to afford 0.084 g of product (83% yield).

reactant | 2-{1-[2-(tert-butyldimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzylamine | 0.162 mmol, 0.072 g | [Si](C)(C)(C(C)(C)C)OC(CN1N=CC2=CC(=CC=C12)OC1=C(CN)C=C(C=C1)F)(C)C | C24H34FN3O2Si
reactant | (5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloroethyl ester | 0.24 mmol, 0.080 g | ClC(COC(NC=1N(N=C(C1)C(C)(C)C)C)=O)(Cl)Cl | C11H16Cl3N3O2
reactant | DIEA | 0.324 mmol, 0.06 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | ether | 60 mL | CCOCC | C4H10O
product | 1-(2-{1-[2-(tert-Butyldimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzyl)-3-(5-tert-butyl-2-methyl-2H-pyrazol-3-yl)-urea | 0.084 g, 83% yield | [Si](C)(C)(C(C)(C)C)OC(CN1N=CC2=CC(=CC=C12)OC1=C(CNC(=O)NC=2N(N=C(C2)C(C)(C)C)C)C=C(C=C1)F)(C)C | C33H47FN6O3Si
